US04959361
3-[3-[6-(2-Fluorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-8-yl]-2-propynyl]-2-methyl-4(3H)-quinazolinone
This compound was obtained by coupling 6-(2-fluorophenyl)-8-iodo-1-methyl-4H-[1,2,-4]triazolo[4,3-a][1,4]benzodiazepine with 2-methyl-3-(2-propynyl)-4(3H)-quinazolinone [ref. B. Danielsson, L. Kronberg and B. Akerman, Acta Pharm. Suecica, 6, 379, (1969)] as described in ex. 17. It was isolated in 57% yield and crystallized from ethyl acetate. m.p. 241°-244° C. with decomposition. The crystals contained 0.66 molar amounts of water.

reactant | 6-(2-fluorophenyl)-8-iodo-1-methyl-4H-[1,2,-4]triazolo[4,3-a][1,4]benzodiazepine | FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)I)C(=NN2)C | C17H12FIN4
reactant | 2-methyl-3-(2-propynyl)-4(3H)-quinazolinone | CC1=NC2=CC=CC=C2C(N1CC#C)=O | C12H10N2O
product | 3-[3-[6-(2-Fluorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-8-yl]-2-propynyl]-2-methyl-4(3H)-quinazolinone | 57% yield | FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)C#CCN3C(=NC1=CC=CC=C1C3=O)C)C(=NN2)C | C29H21FN6O
